US06048852
b) N-[2'-Benzyl-3'-mercaptopropionyl]aspartic acid
Prepared by Method C of Example 19 but utilising N-(S-acetyl-2'-benzyl-3'-mercaptopropionyl)aspartic acid dimethyl ester and stirring with sodium sulphide for 3 hours. This afforded the title compound as a clear oil, an approximately equimolar mixture of diastereoisomers.

reactant | N-(S-acetyl-2'-benzyl-3'-mercaptopropionyl)aspartic acid dimethyl ester | COC([C@@H](NC(C(CSC(C)=O)CC1=CC=CC=C1)=O)CC(=O)OC)=O | C18H23NO6S
reactant | sodium sulphide | [S-2].[Na+].[Na+]
product | N-[2'-Benzyl-3'-mercaptopropionyl]aspartic acid | C(C1=CC=CC=C1)C(C(=O)N[C@@H](CC(=O)O)C(=O)O)CS | C14H17NO5S
